US08106066B2
A solution of m-chloroperbenzoic acid (160 mmol) in acetic acid (200 mL) was added dropwise to a solution of 3-methylisothiazolo[5,4-b]pyridine (107 mmol) in dichloromethane (200 mL). The reaction mixture was maintained for 6 h at 25° C. The reaction mixture was diluted with water (100 mL), the pH was adjusted to 8 with 10% sodium hydroxide, and the layers were separated. The aqueous layer was extracted with ethyl acetate (10×100 mL) and the combined organic layers were dried (magnesium sulfate) and concentrated to provide 3-methylisothiazolo[5,4-b]pyridine-N-oxide in 62% yield as a yellow solid.

reactant | m-chloroperbenzoic acid | 160 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-methylisothiazolo[5,4-b]pyridine | 107 mmol | CC1=NSC2=NC=CC=C21 | C7H6N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 3-methylisothiazolo[5,4-b]pyridine-N-oxide | 62% yield | CC1=[N+](SC2=NC=CC=C21)[O-] | C7H6N2OS
